US05922916
Synthesis of 2-Ethyl-2-methylacetoacetamide
2-Ethylacetoacetamide (21.0 g, 163 mmol) and 50 mL of methanol were charged to a 100 mL, 4-necked flask which was equipped with a thermometer, a nitrogen blanket line atop a condenser, an addition funnel, and a magnetic stirrer. The mixture was stirred until a homogeneous solution was obtained. To the solution was added 14.3 g of 50% aqueous sodium hydroxide solution (179 mmol, 1.1 eq), and the resulting mixture was stirred at ambient temperature for 30 minutes. Methyl iodide (25.4 g, 179 mmol, 1.1 eq) was then added to the reaction mixture through the addition funnel in 30 minutes. Upon the completion of the addition, the reaction mixture was stirred for 14 hours at ambient temperature. After this period, all volatile components were removed at 60° C./20 mmHg. The solid residue was dissolved in 100 mL of water and extracted with ethyl acetate (3×100 mL). After the ethyl acetate was removed in vacuo from the combined extracts, 20.2 g of a white solid was obtained. Crude yield: 87%.

reactant | 2-Ethylacetoacetamide | 163 mmol, 21.0 g | C(C)C(C(=O)N)C(=O)C | C6H11NO2
reactant | sodium hydroxide | 179 mmol, 14.3 g, 1.1 eq | [OH-].[Na+]
reactant | Methyl iodide | 179 mmol, 25.4 g, 1.1 eq | CI | CH3I
solvent | methanol | 50 mL | CO | CH4O
product | 2-Ethyl-2-methylacetoacetamide | 20.2 g | C(C)C(C(=O)N)(C(=O)C)C | C7H13NO2
